US07875645B2
2-(2,6-Diethyl-3-methoxy-benzyl)-4,5-dihydro-1H-imidazole was prepared from 2-(2,2-dibromo-vinyl)-1,3-diethyl-4-methoxy-benzene and ethylenediamine in analogy to Example 1e): yellow crystals; MS (ISP): 247.4 ([M+H]+, 100%).

reactant | 2-(2,2-dibromo-vinyl)-1,3-diethyl-4-methoxy-benzene | BrC(=CC1=C(C=CC(=C1CC)OC)CC)Br | C13H16Br2O
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-(2,6-Diethyl-3-methoxy-benzyl)-4,5-dihydro-1H-imidazole | C(C)C1=C(CC=2NCCN2)C(=CC=C1OC)CC | C15H22N2O
